US04839369
1-(4-Methoxyphenyl)-1-[3-(2-quinolinylmethoxy)phenyl]methanol
A mixture of 3.7 g (0.016 mol) 1-(3-hydroxyphenyl)-1-(4-methoxyphenyl)methanol, 3.4 g (0.016 mol) 2-chloromethylquinoline hydrochloride and 2 g (0.036 mol) KOH in 5 ml water and 50 ml ethanol was heated over steam bath for a period of 4 hours. Reaction mixture was concentrated to dryness and slurried into water and extracted with methylene chloride. The methylene chloride extract was washed with water, dried over MgSO4 and concentrated to dryness under reduced pressure to obtain oily material. Repeated recrystallization from ethyl acetate, acetonitrite and isopropanol gave desired produce 1.1 g. m.p. 70°-80° C.

reactant | 1-(3-hydroxyphenyl)-1-(4-methoxyphenyl)methanol | 0.016 mol, 3.7 g | OC=1C=C(C=CC1)C(O)C1=CC=C(C=C1)OC | C14H14O3
reactant | 2-chloromethylquinoline hydrochloride | 0.016 mol, 3.4 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | KOH | 0.036 mol, 2 g | [OH-].[K+]
solvent | water | 5 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(4-Methoxyphenyl)-1-[3-(2-quinolinylmethoxy)phenyl]methanol | COC1=CC=C(C=C1)C(O)C1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=C1 | C24H21NO3
